US04894302
Magnesium dibutyldiphenylborate was prepared as follows: Diphenylbromoborate was dissolved in the amount of 7.4 milliliters in 40 milliliters of tetrahydrofuran. The diphenylbromoborate was cooled to -78° C. and the tetrahydrofuran was added. On warming, a reaction took place producing a solid tetrahydrofuran/diphenylbromoborate adduct. This product dissolves as the solution is warmed to room temperature with stirring. Thereafter, 56.3 milliliters of 0.71 molar dibutylmagnesium in hexane was added after first cooling the diphenylbromoborate solution in a dry ice/acetone bath. The reaction mixture was allowed to warm to room temperature with stirring and stirring was continued for one hour. The solvent was evaporated by distillation under reduced pressure and the residue was redissolved in 40 milliliters of tetrahydrofuran. Thereafter, 20 milliliters of 1,4-dioxane were added and the mixture was stirred overnight. Substantial amounts of a white precipitate had formed after this time. The mixture was decanted onto a fine glass frit and the solvent was removed by filtration. As the filtrate was collected, two liquid phases formed and some of the original precipitate dissolved. The bottom layer appears to be the desired product. After stirring the filtrate mixture overnight, a precipitate formed. Analysis showed that this was primarily the desired product, magnesium diphenyldibutylboron.

reactant | Diphenylbromoborate | C1(=CC=CC=C1)OB(OC1=CC=CC=C1)Br | C12H10BBrO2
solvent | tetrahydrofuran | 40 milliliters | O1CCCC1 | C4H8O
product | tetrahydrofuran diphenylbromoborate | O1CCCC1.C1(=CC=CC=C1)OB(OC1=CC=CC=C1)Br | InChI=1S/C12H10BBrO2.C4H8O/c14-13(15-11-7-3-1-4-8-11)16-12-9-5-2-6-10-12;1-2-4-5-3-1/h1-10H;1-4H2
